US06826033B2
To an ice-cooled solution of (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol (76 mg) in dichloromethane (0.8 ml) was added dropwise phenyl isocyanate (0.022 ml), and the mixture was stirred at the same temperature for 40 minutes. One drop of 28% ammonia solution was added to the mixture, the mixture was concentrated, and the residue was purified by column chromatography (silica gel, chloroform/methanol) to give N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]-amino]-3-hydroxypropyl]phenyl]-N′-phenylurea (89 mg) as a white amorphous powder.

reactant | (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol | 76 mg | NC1=CC=C(C=C1)C[C@@H](CO)N(C[C@@H](COC1=CC=CC=C1)O)CC1=CC=CC=C1 | C25H30N2O3
reactant | phenyl isocyanate | 0.022 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
catalyst | ammonia | One drop | N | H3N
product | N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]-amino]-3-hydroxypropyl]phenyl]-N′-phenylurea | 89 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)CO | C32H35N3O4
